US04298739
0.5 Gram of metallic sodium is dissolved in 50 ml of methanol under ice cooling, and to this solution is added 3.2 g of 6-hydroxy-3,4-dihydrocarbostyril, 3.2 g of sodium iodide and 4.6 g of N-(4-chlorobutyryl)cyclohexylamine, followed by 5-hour refluxing under agitation. After the reaction, the reaction solution is poured into 400 ml of saturated NaCl solution and the precipitated crystals are filtered out and washed with water. The resultant crude crystals are recrystallized from methanol to obtain 3.1 g of 6-[3-(N-cyclohexylaminocarbonyl)propoxy]-3,4-dihydrocarbostyril in the form of colorless needle-like crystals with melting point of 220°-221° C.

reactant | sodium | [Na] | Na
reactant | 6-hydroxy-3,4-dihydrocarbostyril | 3.2 g | OC=1C=C2CCC(NC2=CC1)=O | C9H9NO2
reactant | sodium iodide | 3.2 g | [I-].[Na+]
reactant | N-(4-chlorobutyryl)cyclohexylamine | 4.6 g | ClCCCC(=O)NC1CCCCC1 | C10H18ClNO
reactant | NaCl | 400 ml | [Na+].[Cl-]
solvent | methanol | 50 ml | CO | CH4O
product | 6-[3-(N-cyclohexylaminocarbonyl)propoxy]-3,4-dihydrocarbostyril | 3.1 g | C1(CCCCC1)NC(=O)CCCOC=1C=C2CCC(NC2=CC1)=O | C19H26N2O3
